US08431563B2
A solution of 2-((2S)-4-(thiophen-2-ylsulfonyl)-1-(4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)phenyl)piperazin-2-yl)acetonitrile (1.10 g, 2.40 mmol) and 5 M NaOH (3 mL) in 2:1 water-EtOH (10 mL) was heated to 150° C. and stirred for 1 h. Afterwards, the mixture was diluted with water (30 mL) and then neutralized with concentrated HCl to a pH of about 2 to 3. The aqueous solution was extracted with 3×EtOAc (20 mL). The organic layer was dried over is MgSO4, filtered, and concentrated. The crude product was then dissolved in 1 N NaOH. The basic solution was extracted with 2×EtOAc. The basic aqueous solution was then neutralized with concentrated HCl and extracted with EtOAc. The combined organic extracts were dried over MgSO4, filtered, and concentrated. The residue was dissolved in EtOAc (30 mL) and the solution was slowly acidified with 1 N HCl in diethyl ether. The resulting precipitate was collected and dried to give ((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)acetic acid hydrochloride (0.655 g).

reactant | 2-((2S)-4-(thiophen-2-ylsulfonyl)-1-(4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)phenyl)piperazin-2-yl)acetonitrile | 2.40 mmol, 1.10 g | S1C(=CC=C1)S(=O)(=O)N1C[C@@H](N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O)CC#N | C19H20F3N3O3S2
reactant | NaOH | 5 M, 3 mL | [OH-].[Na+]
reactant | water EtOH | 10 mL | O.CCO
reactant | HCl | Cl | ClH
solvent | water | 30 mL | O | H2O
product | ((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)acetic acid hydrochloride | 0.655 g | Cl.S1C(=CC=C1)S(=O)(=O)N1C[C@@H](N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O)CC(=O)O | InChI=1S/C19H21F3N2O5S2.ClH/c1-18(27,19(20,21)22)13-4-6-14(7-5-13)24-9-8-23(12-15(24)11-16(25)26)31(28,29)17-3-2-10-30-17;/h2-7,10,15,27H,8-9,11-12H2,1H3,(H,25,26);1H/t15-,18?;/m0./s1
